US08058285B2
1.5 g (3.7 mmol) 2,4-dichloro-7-(3,4-dimethoxyphenyl)-9-methyl-pyrido[3′,2′:4,5]-thieno[3,2-d]pyrimidine and 0.7 g (11.1 mmol) sodium methylate are added by stirring to 50 ml absolute ethanol at room temperature for 24 h. Then, the precipitate is sucked off, washed with about 40 ml water, suck dried and dried in vacuo at 50° C. 1.38 g (90%) 2-chloro-4-ethoxy-7-(3,4-dimethoxyphenyl)-9-methyl-pyrido[3′,2′:4,5]-thieno[3,2-d]pyrimidine is obtained.

reactant | 2,4-dichloro-7-(3,4-dimethoxyphenyl)-9-methyl-pyrido[3′,2′:4,5]-thieno[3,2-d]pyrimidine | 3.7 mmol, 1.5 g | ClC=1N=C(C2=C(N1)C1=C(S2)N=C(C=C1C)C1=CC(=C(C=C1)OC)OC)Cl | C18H13Cl2N3O2S
reactant | sodium methylate | 11.1 mmol, 0.7 g | C[O-].[Na+]
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 2-chloro-4-ethoxy-7-(3,4-dimethoxyphenyl)-9-methyl-pyrido[3′,2′:4,5]-thieno[3,2-d]pyrimidine | 1.38 g, 90% | ClC=1N=C(C2=C(N1)C1=C(S2)N=C(C=C1C)C1=CC(=C(C=C1)OC)OC)OCC | C20H18ClN3O3S
